US07732621B2
A flask was charged successively with 366 mg (1.5 mmol) (S)-2-bromophenylalanine, 217 mg (1.6 mmol) K2CO3, 3.2 mg (0.03 mmol) CuCl and 3.2 g NMP. The reactor was flushed with argon and then kept under a slow stream of argon. The reaction mixture was stirred and heated until 100° C. and kept at this temperature. Samples were taken regularly and analyzed by HPLC. After 4 hours, full conversion of (S)-2-bromophenylalanine was found. The yield (measured in solution) of (S)-2,3-dihydro-1H-indole-2-carboxylic acid was 95.9%, ee>98.6%.

reactant | (S)-2-bromophenylalanine | 1.5 mmol, 366 mg | BrC1=C(C[C@H](N)C(=O)O)C=CC=C1 | C9H10BrNO2
reactant | K2CO3 | 1.6 mmol, 217 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | CuCl | 0.03 mmol, 3.2 mg | Cl[Cu]
solvent | NMP | 3.2 g | CN1CCCC1=O | C5H9NO
product | (S)-2,3-dihydro-1H-indole-2-carboxylic acid | N1[C@@H](CC2=CC=CC=C12)C(=O)O | C9H9NO2
